US04800201
5-methyl-6-[1-(2,2,2-trichloroethoxy-carbonyl)-3-cyano-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one
A mixture of nicotinonitrile (1.62 g), 2,2,2-trichloroethylchloroformate (2.13 ml) and 5-methyl-2H-1,4-thiazin-3(4H)-one (1.0 g) was treated in the same manner as described in Example 4 (i) to give the titled compound (0.8 g, yield 25%) as pale yellow crystals. Chloroform-methanol (=20:1) was used as a developing eluant.

reactant | nicotinonitrile | 1.62 g | C(C1=CN=CC=C1)#N | C6H4N2
reactant | 2,2,2-trichloroethylchloroformate | 2.13 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 5-methyl-2H-1,4-thiazin-3(4H)-one | 1.0 g | CC=1NC(CSC1)=O | C5H7NOS
product | 5-methyl-6-[1-(2,2,2-trichloroethoxy-carbonyl)-3-cyano-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 0.8 g, yield 25% | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C#N)=O | C14H12Cl3N3O3S
